US07737295B2
5′-Isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-carbonitrile (996.2 mg, 3.12 mmol) was dissolved in Et2O (33 mL) and cooled to 0° C. LAH (12.49 mL of a 1 M solution in Et2O, 12.49 mmol) was added dropwise by syringe. After stirring at 0° C. for 10 minutes, the reaction was warmed to room temperature and stirred at room temperature for 6 hours. The reaction was then quenched by slow dropwise addition of 1.5 mL of H2O (vigorous evolution of gas), followed by 1.5 mL of 30% NaOH, followed by 3.0 mL of H2O. The resulting gelatinous precipitate was washed with 5×20 mL of CH2Cl2; the organic washes were dried over Na2SO4, filtered and concentrated. Purification of the residue by flash chromatography with 2% MeOH/CH2Cl2 containing 0.1% Et3N afforded 1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine. Rf=0.30 (10% MeOH/CH2Cl2). LCMS=324.3 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.77 (s, 1H), 7.55 (d, J=6.8 Hz, 1H), 7.32 (d, J=7.8 Hz, 1H), 7.25 (dd, J=8.3, 2.1 Hz, 1H), 7.00 (d, J=2.1 Hz, 1H), 6.92 (d, J=8.4 Hz, 1H), 3.66-3.74 (m, 5H), 2.91 (m, 1H), 1.26 (d, J=6.9 Hz, 6H).

reactant | 5′-Isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-carbonitrile | 3.12 mmol, 996.2 mg | C(C)(C)C=1C=CC(=C(C1)C=1C(=CC(=CC1)C(F)(F)F)C#N)OC | C18H16F3NO
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 33 mL | CCOCC | C4H10O
product | 1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN)OC | C18H20F3NO
